US04161538
2-[4-(2-Oxocyclopentan-1-ylmethyl)phenyl]-propionic Acid L-Arginine Salt
To a solution of 1.23 g of 2-[4-(2-oxocyclopentan-1-ylmethyl)phenyl]propionic acid in a mixture of 1.6 ml of acetone and 0.5 ml of water was dropwise added with stirring 2 ml of water containing 0.87 g of L-arginine, the mixture was stirred for 1 hour and acetone and water were removed by distillation under reduced pressure to give 2.1 g of the desired compound, m.p. 101°-110° C.

reactant | 2-[4-(2-oxocyclopentan-1-ylmethyl)phenyl]propionic acid | 1.23 g | O=C1C(CCC1)CC1=CC=C(C=C1)C(C(=O)O)C | C15H18O3
reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | acetone | 1.6 ml | CC(=O)C | C3H6O
solvent | water | 0.5 ml | O | H2O
solvent | water | 2 ml, 0.87 g | O | H2O
product | 2-[4-(2-Oxocyclopentan-1-ylmethyl)phenyl]-propionic Acid L-Arginine Salt | 2.1 g | N[C@@H](CCCNC(N)=N)C(=O)O.O=C1C(CCC1)CC1=CC=C(C=C1)C(C(=O)O)C | InChI=1S/C15H18O3.C6H14N4O2/c1-10(15(17)18)12-7-5-11(6-8-12)9-13-3-2-4-14(13)16;7-4(5(11)12)2-1-3-10-6(8)9/h5-8,10,13H,2-4,9H2,1H3,(H,17,18);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t;4-/m.0/s1
